US08357706B2
Prepared using General Procedure 1. To a stirring solution of (S)-tert-butyl (5-cyano-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate INT-8 (3.10 g, 11.38 mmol) in EtOH (25 mL) was added hydroxylamine hydrochloride (2.77 g, 39.84 mmol) and NEt3 (3.17 mL, 22.77 mmol). After heating at 85° C. for 15 h, the mixture was concentrated, redissolved in DCM, and washed with NaHCO3. The combined organic layers were dried, concentrated and chromatographed (MeOH/DCM) to provide 3.56 g crude (S)-tert-butyl (5-(N-hydroxycarbamimidoyl)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate INT-10 (58% product by UV area), which was used in the next reaction without further purification. LCMS-ESI (m/z) calculated for C16H23N3O3: 305.37; found 306.2 [M+H]+, tR=2.00 min.

reactant | (S)-tert-butyl (5-cyano-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate | C(#N)C1=C2CCC[C@@H](C2=CC=C1)NC(OC(C)(C)C)=O | C16H20N2O2
reactant | hydroxylamine hydrochloride | 39.84 mmol, 2.77 g | Cl.NO
reactant | NEt3 | 22.77 mmol, 3.17 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 25 mL | CCO | C2H6O
product | (S)-tert-butyl (5-(N-hydroxycarbamimidoyl)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamate | 3.56 g | ONC(=N)C1=C2CCC[C@@H](C2=CC=C1)NC(OC(C)(C)C)=O | C16H23N3O3
